Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[O:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-1.41784806038
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7],6.741189200000001
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-3.65797901802
[C:5][H:6].[O:1][O:2][C:3]#[C:4]>>[O:1][O:2][C:3][C:4]#[C:5][H:6],-8.38800306903
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.976803829730002
[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.35160859316
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([C:4]#[C:5])[C:7]([H:8])([H:9])[H:10].[H:6],5.84093603224
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],4.86230710659
[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.40379941857
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[O:3]>>[O:1][C:2](=[O:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-0.97891216015
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.3131737161
[C:3](=[C:4]([H:5])[H:6])([H:8])[H:9].[H:1][C:2](=[C:7]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],0.4105006499499999
[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-3.05032683987
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.5192762387099998
[C:5]([H:6])[H:7].[H:1][O:2][C:3]([O:4])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.1033111233
[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:8])[H:9].[O:7]>>[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9],-3.16749376947
[H:5].[O:1][C:2]#[C:3][C:4][C:6](=[O:7])[H:8]>>[O:1][C:2]#[C:3][C:4]([H:5])[C:6](=[O:7])[H:8],-3.73036438274
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],4.86514680765
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])=[C:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],1.01728373432
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[H:13].[O:6]=[C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.20837927463
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:4],1.7052938760499998
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],6.12499584454
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-7.931051838180001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13],1.78585885776
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:11]([H:12])([H:13])=[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],1.11442083
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:3],2.40331921837
[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4][C:5],3.15750349677
